US04099012
The starting material is prepared analogously as the 2-fluoro analog of Example 6.77 g of 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-ethoxycarbonyl-2-methyl-pyrazole are dissolved in 900 ml of ethanol and 240 ml of N aqueous sodium hydroxide and the solution is refluxed for 2 hours. After cooling the aqueous phase is separated, washed with diethyl ether and acidified with hydrochloric acid. It is extracted with methylene chloride, the extract dried and evaporated. The residue is recrystallized from 200 ml of diethyl ether to yield the 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-2-methylpyrazole-4-carboxylic acid melting at 210°-213°.

reactant | 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-ethoxycarbonyl-2-methyl-pyrazole | 6.77 g | ClC1=CC(=C(C=C1)C=1N(N=CC1C(=O)OCC)C)C(C1=C(C=CC=C1)Cl)OC | C21H20Cl2N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 3-[4-chloro-2-(2-chloro-α-methoxy-benzyl)-phenyl]-2-methylpyrazole-4-carboxylic acid | ClC1=CC(=C(C=C1)C=1N(N=CC1C(=O)O)C)C(C1=C(C=CC=C1)Cl)OC | C19H16Cl2N2O3
